data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(Cl)cc1C)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1C)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(Cl)cc1C)C(C)C", "products": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "Cc1cc(Cl)ccc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2cc([Si](C)(CF)CCl)c([Si](C)(C)C)cc21", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)CCl)c([Si](C)(C)C)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\cc([Si](C)(CF)CCl)c([Si](C)(C)C)cc1=C", "products": "C[C@]12CC[C@@H]3c4cc([Si](C)(CF)CCl)c([Si](C)(C)C)cc4CC[C@H]3[C@@H]1CCC2=O"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "Cc1cccc(C(=O)C2C3CCC2C3)c1F", "products": "Cc1cccc([C]([O])C2C3CCC2C3)c1F"}, {"reactants": "Cc1cccc([C]([O])C2C3CCC2C3)c1F", "products": "Cc1cccc(C([O])=CC2C[CH]CC2)c1F"}, {"reactants": "Cc1cccc(C([O])=CC2C[CH]CC2)c1F", "products": "Cc1cccc(C(O)=CC2C=CCC2)c1F"}, {"reactants": "Cc1cccc(C(O)=CC2C=CCC2)c1F", "products": "Cc1cccc(C(=O)CC2C=CCC2)c1F"}]}
{"conditions": [], "steps": [{"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CCC1Cc2c1cc([Si](C)(C)COC)c([Si](C)(C)C)c2Cl", "products": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C"}, {"reactants": "C=C[C@@H]1CCC(=O)[C@@]1(C)CC/C=c1\\c(Cl)c([Si](C)(C)C)c([Si](C)(C)COC)cc1=C", "products": "COC[Si](C)(C)c1cc2c(c(Cl)c1[Si](C)(C)C)[C@H]1CC[C@]3(C)C(=O)CC[C@H]3[C@@H]1CC2"}]}
{"conditions": [{"role": "reagent", "text": "[Pd] catalyst"}, {"role": "reagent", "text": "base"}], "steps": [{"reactants": "COc1cc(C)c(N(C)C(=O)C2=CCCC2)c(Br)c1.[Pd]", "products": "COc1cc(C)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1"}, {"reactants": "COc1cc(C)c(N(C)C(=O)C2=CCCC2)[c]([Pd][Br])c1", "products": "COc1cc(C)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]"}, {"reactants": "COc1cc(C)c2c(c1)N(C)C(=O)C21CCC[CH]1[Pd][Br]", "products": "COc1cc(C)c2c(c1)N(C)C(=O)C21C=CCC1.Br[PdH]"}, {"reactants": "Br[PdH]", "products": "[Pd].Br"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1cc(C)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1cc(C)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1cc(C)ccc1CO[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1ccc(C)cc1OC", "products": "COc1cc(C)ccc1CO[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(C)c(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1cc(C)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1cc(C)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(C)ccc2Cl)C(=N)C=C1", "products": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1cc(C)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(C)c2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(C)c2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
